US07067506B2
Step 1: N-Benzyl-N-(3-methoxy-4-nitro-benzyl)-methyl-amine.
A solution of N-methyl-benzyl amine was alkylated with 3-methoxy-4-nitro-benzyl bromide as described above for compound 338. 1H NMR (400 MHz, CDCl3): δ7.83 (d, J=8.6 Hz, 1H), 7.35 (s, 4H), 7.26 (s, 1H), 7.17 (s, 1H), 7.01 (d, J=7.04 Hz, 1H), 3.97 (s, 3H), 3.55 (s, 4H), 2.22 (s, 3H).

reactant | N-methyl-benzyl amine | CNCC1=CC=CC=C1 | C8H11N
reactant | 3-methoxy-4-nitro-benzyl bromide | COC=1C=C(CBr)C=CC1[N+](=O)[O-] | C8H8BrNO3
product | N-Benzyl-N-(3-methoxy-4-nitro-benzyl)-methyl-amine | C(C1=CC=CC=C1)N(CC1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C16H18N2O3
